US07964732B2
(E)-N-((1,5-dimethyl-1H-pyrazol-4-yl)methylene)-2-methylpropane-2-sulfinamide
A mixture of 1,5-dimethyl-1H-pyrazole-4-carbaldehyde (Zhumal Obshchei Khimii 1980, 50, 2370-5, 2.0 g, 16.1 mmol), tert-butylsulfinamide (2.05 g, 16.9 mmol), and Ti(OEt)4 (6.76 ml, 32.2 mmol) in THF (32 ml) was heated under reflux for 18 h under nitrogen. After being cooled to rt, the mixture was poured into brine (32 ml) with stirring. The resulting suspension was filtered through a plug of Celite, and the filter cake was washed with EtOAc. The filtrate was transferred to a separation funnel, and organic layer was washed with brine. Then the aqueous layer was washed with EtOAc and the combined organic extracts were dried over Na2SO4, and concentrated in vacuo. The crude material was purified by silica gel chromatography (CH2Cl2:MeOH=50:1-30:1) to give the desired product as a white solid (3.55 g, 97% yield). 1H NMR (300 MHz, CDCl3) δ 1.23 (9H, s), 2.52 (3H, s), 3.83 (3H, s), 7.81 (1H, s), 8.49 (1H, s). MS (ESI) m/z 228 (M+H)+

reactant | 1,5-dimethyl-1H-pyrazole-4-carbaldehyde | 16.1 mmol, 2.0 g | CN1N=CC(=C1C)C=O | C6H8N2O
reactant | tert-butylsulfinamide | 16.9 mmol, 2.05 g | C(C)(C)(C)S(=O)N | C4H11NOS
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | brine | 32 ml | [Cl-].[Na+].O
product | (E)-N-((1,5-dimethyl-1H-pyrazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 3.55 g, 97% yield | CN1N=CC(=C1C)\C=N\S(=O)C(C)(C)C | C10H17N3OS
